* source PCB_ASSIGN2
.EXTERNAL OUTPUT Over
.EXTERNAL OUTPUT carry
.EXTERNAL OUTPUT out6
.EXTERNAL OUTPUT out7
.EXTERNAL OUTPUT out1
.EXTERNAL OUTPUT out0
.EXTERNAL OUTPUT out2
.EXTERNAL OUTPUT out3
.EXTERNAL OUTPUT out4
.EXTERNAL OUTPUT out5
.EXTERNAL OUTPUT zero
X_biBit0_U1A         AINT0 BINT0 biBit0_N01397 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA1_U1B         AINT1 biBit0_FA1_N00372 biBit0_FA1_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA1_U3B         AINT1 biBit0_FA1_N00372 biBit0_N03302 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA1_U2A         biBit0_FA1_N00431 biBit0_FA1_N00455 N00897 $G_DPWR
+  $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA1_U3A         biBit0_N02695 biBit0_CINTERNAL biBit0_FA1_N00372
+  $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA1_U1A         biBit0_CINTERNAL biBit0_N02695 biBit0_FA1_N00455
+  $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U3A         AINT0 BINT0 biBit0_N01531 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U4         0 0 OP0DIST OP1DIST biBit0_N01397 biBit0_N01531
+  biBit0_N01571 SETLSB biBit0_N03272 biBit0_N03290 biBit0_N03302 0 OUT0 OUT1
+  $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U6A         AINT1 BINT1 biBit0_N03290 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U5A         AINT1 BINT1 biBit0_N03272 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U7A         BINT1 OP2DIST biBit0_N02695 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA0_U1B         AINT0 biBit0_FA0_N00372 biBit0_FA0_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA0_U3B         AINT0 biBit0_FA0_N00372 biBit0_N01571 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA0_U2A         biBit0_FA0_N00431 biBit0_FA0_N00455 biBit0_CINTERNAL
+  $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA0_U3A         biBit0_N01715 OP2DIST biBit0_FA0_N00372 $G_DPWR
+  $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_FA0_U1A         OP2DIST biBit0_N01715 biBit0_FA0_N00455 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit0_U2A         BINT0 OP2DIST biBit0_N01715 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U1A         AINT2 BINT2 biBit1_N01397 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA1_U1B         AINT3 biBit1_FA1_N00372 biBit1_FA1_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA1_U3B         AINT3 biBit1_FA1_N00372 biBit1_N03302 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA1_U2A         biBit1_FA1_N00431 biBit1_FA1_N00455 N00909 $G_DPWR
+  $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA1_U3A         biBit1_N02695 biBit1_CINTERNAL biBit1_FA1_N00372
+  $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA1_U1A         biBit1_CINTERNAL biBit1_N02695 biBit1_FA1_N00455
+  $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U3A         AINT2 BINT2 biBit1_N01531 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U4         0 0 OP0DIST OP1DIST biBit1_N01397 biBit1_N01531
+  biBit1_N01571 0 biBit1_N03272 biBit1_N03290 biBit1_N03302 0 OUT2 OUT3 $G_DPWR
+  $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U6A         AINT3 BINT3 biBit1_N03290 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U5A         AINT3 BINT3 biBit1_N03272 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U7A         BINT3 OP2DIST biBit1_N02695 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA0_U1B         AINT2 biBit1_FA0_N00372 biBit1_FA0_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA0_U3B         AINT2 biBit1_FA0_N00372 biBit1_N01571 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA0_U2A         biBit1_FA0_N00431 biBit1_FA0_N00455 biBit1_CINTERNAL
+  $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA0_U3A         biBit1_N01715 N00897 biBit1_FA0_N00372 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_FA0_U1A         N00897 biBit1_N01715 biBit1_FA0_N00455 $G_DPWR $G_DGND
+  7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit1_U2A         BINT2 OP2DIST biBit1_N01715 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U1A         AINT4 BINT4 biBit2_N01397 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA1_U1B         AINT5 biBit2_FA1_N00372 biBit2_FA1_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA1_U3B         AINT5 biBit2_FA1_N00372 biBit2_N03302 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA1_U2A         biBit2_FA1_N00431 biBit2_FA1_N00455 N00921 $G_DPWR
+  $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA1_U3A         biBit2_N02695 biBit2_CINTERNAL biBit2_FA1_N00372
+  $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA1_U1A         biBit2_CINTERNAL biBit2_N02695 biBit2_FA1_N00455
+  $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U3A         AINT4 BINT4 biBit2_N01531 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U4         0 0 OP0DIST OP1DIST biBit2_N01397 biBit2_N01531
+  biBit2_N01571 0 biBit2_N03272 biBit2_N03290 biBit2_N03302 0 OUT4 OUT5 $G_DPWR
+  $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U6A         AINT5 BINT5 biBit2_N03290 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U5A         AINT5 BINT5 biBit2_N03272 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U7A         BINT5 OP2DIST biBit2_N02695 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA0_U1B         AINT4 biBit2_FA0_N00372 biBit2_FA0_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA0_U3B         AINT4 biBit2_FA0_N00372 biBit2_N01571 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA0_U2A         biBit2_FA0_N00431 biBit2_FA0_N00455 biBit2_CINTERNAL
+  $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA0_U3A         biBit2_N01715 N00909 biBit2_FA0_N00372 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_FA0_U1A         N00909 biBit2_N01715 biBit2_FA0_N00455 $G_DPWR $G_DGND
+  7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_biBit2_U2A         BINT4 OP2DIST biBit2_N01715 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA1_U1B         AINT7 MSBiBit_FA1_N00372 MSBiBit_FA1_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA1_U3B         AINT7 MSBiBit_FA1_N00372 SETLSB $G_DPWR $G_DGND 7486
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA1_U2A         MSBiBit_FA1_N00431 MSBiBit_FA1_N00455 CARRY $G_DPWR
+  $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA1_U3A         MSBiBit_N04563 MSBiBit_CINTERNAL MSBiBit_FA1_N00372
+  $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA1_U1A         MSBiBit_CINTERNAL MSBiBit_N04563 MSBiBit_FA1_N00455
+  $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U2A         BINT6 OP2DIST MSBiBit_N04351 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U1A         AINT6 BINT6 MSBiBit_N04025 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U6A         AINT7 BINT7 MSBiBit_N04287 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U5A         AINT7 BINT7 MSBiBit_N04265 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U3A         AINT6 BINT6 MSBiBit_N04155 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U7B         MSBiBit_CINTERNAL CARRY OVER $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U7A         BINT7 OP2DIST MSBiBit_N04563 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA_U1B         AINT6 MSBiBit_FA_N00372 MSBiBit_FA_N00431 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA_U3B         AINT6 MSBiBit_FA_N00372 MSBiBit_N04209 $G_DPWR $G_DGND
+  7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA_U2A         MSBiBit_FA_N00431 MSBiBit_FA_N00455 MSBiBit_CINTERNAL
+  $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA_U3A         MSBiBit_N04351 N00921 MSBiBit_FA_N00372 $G_DPWR
+  $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_FA_U1A         N00921 MSBiBit_N04351 MSBiBit_FA_N00455 $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_MSBiBit_U4         0 0 OP0DIST OP1DIST MSBiBit_N04025 MSBiBit_N04155
+  MSBiBit_N04209 0 MSBiBit_N04265 MSBiBit_N04287 SETLSB 0 OUT6 OUT7 $G_DPWR
+  $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND OP2DIST IO_STM STIMULUS=op2In
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND OP1DIST IO_STM STIMULUS=op2In
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND OP0DIST IO_STM STIMULUS=op2In
X_U1A         N01663 N013601 N01667 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N01667 N01671 N014012 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N014420 N01659 N01671 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         OUT6 OUT7 N01659 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         OUT4 OUT5 N014420 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         OUT0 OUT1 N01663 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         OUT2 OUT3 N013601 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N014012 ZERO $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND AINT0 IO_STM STIMULUS=a0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND AINT1 IO_STM STIMULUS=a1
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND AINT2 IO_STM STIMULUS=a2
U_DSTM7         STIM(1,0) $G_DPWR $G_DGND AINT3 IO_STM STIMULUS=a3
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND AINT5 IO_STM STIMULUS=a5
U_DSTM8         STIM(1,0) $G_DPWR $G_DGND AINT4 IO_STM STIMULUS=a4
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND AINT6 IO_STM STIMULUS=a6
U_DSTM11         STIM(1,0) $G_DPWR $G_DGND AINT7 IO_STM STIMULUS=a7
U_DSTM12         STIM(1,0) $G_DPWR $G_DGND BINT0 IO_STM STIMULUS=b0
U_DSTM13         STIM(1,0) $G_DPWR $G_DGND BINT1 IO_STM STIMULUS=b1
U_DSTM15         STIM(1,0) $G_DPWR $G_DGND BINT3 IO_STM STIMULUS=b3
U_DSTM14         STIM(1,0) $G_DPWR $G_DGND BINT2 IO_STM STIMULUS=b2
U_DSTM18         STIM(1,0) $G_DPWR $G_DGND BINT6 IO_STM STIMULUS=b6
U_DSTM19         STIM(1,0) $G_DPWR $G_DGND BINT7 IO_STM STIMULUS=b7
U_DSTM17         STIM(1,0) $G_DPWR $G_DGND BINT5 IO_STM STIMULUS=b5
U_DSTM16         STIM(1,0) $G_DPWR $G_DGND BINT4 IO_STM STIMULUS=b4
